US05288743
A solution of methyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropionate (8.8 g; 16 mmol), prepared as in step 5, in 100 mL 1:2:1 THF, methanol, 1N aqueous LiOH was heated at reflux for 3 hours. The reaction mixture was concentrated, diluted with water, and acidified to pH 5-6 with solid citric acid. The mixture was extracted with ethyl acetate. The extracts were dried over magnesium sulfate and the solvent was evaporated. The product was recrystallized from ethyl acetate/hexane to give 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropionic acid as a white solid. m.p. 189°-190° C. 1H NMR (300 MHz, DMSO-d6) δ1.09 (s, 6H), 1.10 (s, 9H), 3.18 (bs, 2H), 5.20 (s, 2H), 5.47 (s, 2H), 6.85 (m, 3H), 7.09 (d, J=3 Hz, 1H), 7.32 (m, 4H), 7.49 (d, J=8 Hz, 1H), 7.79 (m, 1H), 8.57 (m, 1H). MS (DCI/NH3) 537 (M+H)+. Analysis calcd for C30H33ClN2O3S; C, 67.08; H, 6.19; N, 5.22. Found: C, 67.30; H, 6.21; N, 5.18.

reactant | methyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropionate | 16 mmol, 8.8 g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC2=NC=CC=C2)SC(C)(C)C)CC(C(=O)OC)(C)C)C=C1 | C31H35ClN2O3S
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 1N | [Li+].[OH-]
solvent | methanol | CO | CH4O
product | 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropionic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC2=NC=CC=C2)SC(C)(C)C)CC(C(=O)O)(C)C)C=C1 | C30H33ClN2O3S
